US04727082
7.6 g of 2-(4-bromobutoxy)-5-methylsulfonylbenzaldehyde, 2.6 g of methyl acetoacetate and 2.9 g of 3-aminocrotonic acid methyl ester were dissolved in 16 ml of isopropanol, and the solution was heated for 5 hours. After cooling, precipitated crystals were collected by filtration, and recrystallized from methanol to give 6.3 g of dimethyl 4-[2(4-bromobutoxy)-5-methylsulfonylphenyl]-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate.

reactant | 2-(4-bromobutoxy)-5-methylsulfonylbenzaldehyde | 7.6 g | BrCCCCOC1=C(C=O)C=C(C=C1)S(=O)(=O)C | C12H15BrO4S
reactant | methyl acetoacetate | 2.6 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | 3-aminocrotonic acid methyl ester | 2.9 g | COC(\C=C(\C)/N)=O | C5H9NO2
solvent | isopropanol | 16 ml | C(C)(C)O | C3H8O
product | dimethyl 4-[2(4-bromobutoxy)-5-methylsulfonylphenyl]-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate | 6.3 g | BrCCCCOC1=C(C=C(C=C1)S(=O)(=O)C)C1C(=C(NC(=C1C(=O)OC)C)C)C(=O)OC | C22H28BrNO7S
